data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_67628_0,[N:1](/[N:4]=[C:3](/[N:2]([H:7])[H:8])[H:9])([H:5])[H:6]>>[N:1]([N:4](/[C:3](=[N:2]/[H:7])[H:9])[H:8])([H:5])[H:6],48.203295000001845
MR_121120_0,[C:1](/[C:5](=[C:4](/[C:2]([N:3]([H:7])[H:8])=[C:6]([H:11])[H:12])[H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([C:5]1([H:10])[C:4]([H:9])=[C:2]([N:3]([H:7])[H:8])[C:6]1([H:11])[H:12])([H:13])([H:14])[H:15],43.93566749998662
MR_64786_2,[C:1](/[C:3]([C:2]([O:5][H:8])=[O:7])=[N:6]/[H:9])([N:4]([H:10])[H:11])([H:12])[H:13]>>[C:1](/[C:3]([C:2]([O:5][H:8])([O:7][H:11])[H:13])=[N:6]/[H:9])(=[N:4]\[H:10])[H:12],71.1396750000199
MR_413390_2,[C:1](/[C:4](=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])[N:8]([C:3]([N:5]([H:9])[H:10])=[O:7])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[C:4](=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])[O:7]/[C:3]([N:5]([H:9])[H:10])=[N:8]/[H:11])([H:13])([H:14])[H:15],65.23364500002145
MR_328671_1,[C:1](/[N:8]=[C:4](/[N:2]([C:3]([O:7][H:10])=[O:9])[N:5]([H:11])[H:12])[N:6]([H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([N:8]([C:3]([O:7][H:10])=[O:9])/[C:4](=[N:2]/[N:5]([H:11])[H:12])[N:6]([H:13])[H:14])([H:15])([H:16])[H:17],33.911982499986664
MR_342652_1,[C:1]1([H:12])([H:13])[C:4](=[O:8])[C:5]1([C:2]([H:14])([H:15])[H:16])/[C:7](=[N:3]/[N:6]([H:9])[H:10])[H:11]>>[C:1]1([H:12])([H:13])[C:4](=[O:8])[N:3]([N:6]([H:9])[H:10])[C:7]([H:11])=[C:5]1[C:2]([H:14])([H:15])[H:16],23.705695000037537
MR_192706_0,[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([N:5]([H:10])[H:11])[H:8])(/[N:6]=[N:7]/[C:2]([H:12])([H:13])[H:14])[H:9]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[N:6]/[N:7]([C:2]([H:12])([H:13])[H:14])[N:4]([N:5]([H:10])[H:11])[H:8])[H:9],57.39742499997391
MR_360837_1,[C:1]([O:4][H:6])(/[N:5]=[C:3](/[N:2]([H:7])[H:8])[H:11])([H:9])[H:10]>>[C:1](=[N:5][C:3]([N:2]([H:7])[H:8])([O:4][H:6])[H:11])([H:9])[H:10],54.974020000028645
MR_462368_0,[C:1]([C:2]([C:3]([N:5]([H:15])[H:16])=[O:8])([N:4]([H:13])[H:14])[H:12])([O:6][H:9])([O:7][H:10])[H:11]>>[C:1]([C:2]([C:3]([N:5]([H:15])[H:16])([O:8][H:9])[H:11])([N:4]([H:13])[H:14])[H:12])(=[O:6])[O:7][H:10],61.95432999999
MR_410524_0,[C:1]([C:2](=[O:7])[H:12])([C:4]([H:16])([H:17])[H:21])([C:5]([H:18])([H:19])[H:20])[C:6]([C:3]([O:8][H:11])([H:13])[H:14])([O:9][H:10])[H:15]>>[C:1]([C:2]([C:3]([O:8][H:11])([H:13])[H:14])([O:7][H:10])[H:12])([C:4]([H:16])([H:17])[H:21])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:9])[H:15],68.01598000002357
MR_595454_0,[N:1](/[C:2]([N:3]([H:10])[H:11])=[N:6]/[O:5][H:8])([O:4][H:7])[H:9]>>[N:1](=[C:2](\[N:3]([H:10])[H:11])[N:6]([O:4][H:7])[O:5][H:8])\[H:9],63.465349999955976
MR_553049_0,[C:1]([N:3]([C:5]([C:2]([H:14])([H:15])[H:16])=[C:4]([O:6][H:8])[O:7][H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:5](\[C:2]([H:14])([H:15])[H:16])[C:4]([O:6][H:8])([O:7][H:9])[H:10])([H:11])([H:12])[H:13],60.98923500003679
MR_231394_0,[C:1]([O:4][C:2]([O:3][O:5][H:7])=[O:6])([H:8])([H:9])[H:10]>>[C:1]([O:4][O:3][C:2]([O:5][H:7])=[O:6])([H:8])([H:9])[H:10],72.59924000000879
MR_429576_1,[C:1]([C:2]([H:16])([H:18])[H:19])([C:3]([H:17])([H:20])[H:21])([N:6]([C:7](=[C:8]([C:4]([H:22])([H:23])[H:27])[C:5]([H:24])([H:25])[H:26])[N:10]([H:14])[H:15])[N:9]([H:12])[H:13])[H:11]>>[C:1]([C:2]([H:16])([H:18])[H:19])([C:3]([H:17])([H:20])[H:21])([C:8]([C:4]([H:22])([H:23])[H:27])([C:5]([H:24])([H:25])[H:26])/[C:7](=[N:6]/[N:9]([H:12])[H:13])[N:10]([H:14])[H:15])[H:11],70.56739500000234
MR_465612_1,[C:1]12([H:11])[N:3]([H:10])[C@:6]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:8])([H:12])[C@@:7]1([H:13])[N:4]2[H:9]>>[C:1]1([C:5]([C:2]([H:14])([H:15])[H:16])=[O:8])([H:11])[N:3]([H:10])[C:6]([H:12])=[C:7]([H:13])[N:4]1[H:9],20.114512500008743
MR_566281_1,[C:1]([N:4][O:2][N:3][O:5])([H:6])[H:7]>>[C:1]([N:3]=[O:5])([N:4]=[O:2])([H:6])[H:7],31.31476000001655
MR_250071_1,[C:1]([C:2]([H:9])([H:10])[H:11])([C:4]([C:3]([H:12])([H:13])[H:14])=[O:7])([N:5]=[O:6])[H:8]>>[C:1](\[C:2]([H:9])([H:10])[H:11])(=[C:4](/[C:3]([H:12])([H:13])[H:14])[O:7][N:5]=[O:6])[H:8],29.50693250001521
MR_688364_0,[C:1]1([C:3]([H:13])([H:14])[H:15])([O:7][H:9])[N:4]([H:10])[C:5](=[O:8])[C:2]([H:11])([H:12])[O:6]1>>[C:1](\[C:3]([H:13])([H:14])[H:15])(=[N:4]\[H:10])[O:6][C:2]([C:5]([O:7][H:9])=[O:8])([H:11])[H:12],52.16972249997497
MR_519609_0,[C:1](/[C:3](=[N:2]/[O:7][H:9])[C:6]([N:4]([H:10])[H:11])(/[C:5](=[N:8]/[H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1](/[C:3]([N:2](/[C:5](=[N:8]/[H:12])[H:13])[O:7][H:9])=[C:6](\[N:4]([H:10])[H:11])[H:14])([H:15])([H:16])[H:17],63.34361499997797
MR_320762_1,[C@@:1]([C@@:2]([C:4]([H:18])([H:19])[H:20])([N:7]([H:13])[H:14])[H:10])([C:5]([C:3]([H:15])([H:16])[H:17])=[O:8])([N:6]([H:11])[H:12])[H:9]>>[C@:1]([C:3]([H:15])([H:16])[H:17])([C:5]([C@@:2]([C:4]([H:18])([H:19])[H:20])([N:7]([H:13])[H:14])[H:10])=[O:8])([N:6]([H:11])[H:12])[H:9],59.84592999999848
MR_667677_0,[C:1](/[C:4](=[C:2](\[O:5][H:8])[N:7][C:3]([O:6][H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C@@:4]1([H:11])[C:2]([O:5][H:8])=[N:7][C@@:3]1([O:6][H:9])[H:10])([H:12])([H:13])[H:14],26.98689250002857
